US04757070
5-(2-Nitrovinyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester
A solution of 5-formyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester (10 g), nitromethane (2 ml) and methylamine hydrochloride (0.2 g) in ethanol (50 ml) is mixed with sodium carbonate (0.3 g) and left for 5 days at 20° C. with occasional shaking. Then it is evaporated to beginning crystallization. 5 g of the title compound crystallizes from the solution cooled with ice water.

reactant | 5-formyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)C=O | C16H14N2O3
reactant | nitromethane | 2 ml | [N+](=O)([O-])C | CH3NO2
reactant | methylamine hydrochloride | 0.2 g | Cl.CN
reactant | sodium carbonate | 0.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(2-Nitrovinyl)-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)C=C[N+](=O)[O-] | C17H15N3O4
